US04785010
1-(Hydroxy-carbonyl-methyl)-2-(phthalimido-methyl)-5-methyl-pyrrole
5.2 g (0.02 mol) of 6-phthalimido-2,5-hexanedione and 1.6 g (0.02 mol) of glycine are stirred in 50 ml of acetonitrile at 80° C. for 1 hour. After the mixture has been concentrated, it is extracted under alkaline conditions with methylene chloride and the extract is acidified and extracted again. The resulting product is recrystallised from methanol.

reactant | 6-phthalimido-2,5-hexanedione | 0.02 mol, 5.2 g | C1(C=2C(C(N1CC(CCC(C)=O)=O)=O)=CC=CC2)=O | C14H13NO4
reactant | glycine | 0.02 mol, 1.6 g | NCC(=O)O | C2H5NO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(Hydroxy-carbonyl-methyl)-2-(phthalimido-methyl)-5-methyl-pyrrole | OC(=O)CN1C(=CC=C1C)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H14N2O4
